US07947686B2
To a mixture of 3-{[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridine-4-carbonyl]-amino}-6,7-dihydro-4H-pyrazolo[4,3-c]pyridine-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester (1.68 g, 3 mmol) in 35 mL of EtOH was added hydrazine hydrate (0.37 mL) and the solution was heated to reflux for 1 hour. After cooling, the precipitate was filtered off and the filtrate evaporated in vacuum. The product was chromatographed twice, using dichloromethane-MeOH 95:5 as eluant, to afford 3-[(3-amino-pyridine-4-carbonyl)-amino]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (0.8 g, 74% yield).

reactant | 3-{[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridine-4-carbonyl]-amino}-6,7-dihydro-4H-pyrazolo[4,3-c]pyridine-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester | 3 mmol, 1.68 g | C(C)OC(=O)N1N=C(C=2CN(CCC21)C(=O)OC(C)(C)C)NC(=O)C2=C(C=NC=C2)N2C(C1=CC=CC=C1C2=O)=O | C28H28N6O7
reactant | hydrazine hydrate | 0.37 mL | O.NN
solvent | EtOH | 35 mL | CCO | C2H6O
product | 3-[(3-amino-pyridine-4-carbonyl)-amino]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 0.8 g, 74% yield | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2NC(=O)C2=C(C=NC=C2)N | C17H22N6O3
